US04704390
Twenty grams (0.114 mole) of 4-methoxy-1,2-phenylenediamine hydrochloride was refluxed with 30 ml of 88% formic acid, 15 ml of concentrated HCl and 90 ml of water for eight hours. The solvent was then removed in vacuo and the residue was treated with 100 ml of concentrated NH4OH, extracted with dichloromethane (2×200 ml), dried over MgSO4 and concentrated to leave a thick oil which was converted to its HCl salt, mp 212°-5° C. (12.8 g, 60%). This compound (12.0 g, 65 mmole) was refluxed with 125 ml of concentrated HBr, under argon, for three hours. After evaporation in vacuo, the residue was dissolved in water, neutralized with solid NaHCO3. The product deposited was recrystallized from water, yielding 7.7 g (88%) of 5-hydroxy-1H-benzimidazole, mp 216°-8° C.

reactant | 4-methoxy-1,2-phenylenediamine hydrochloride | 0.114 mole, Twenty grams | Cl.COC1=CC(=C(C=C1)N)N
reactant | formic acid | 30 ml | C(=O)O | CH2O2
reactant | HCl | 15 ml | Cl | ClH
reactant | HBr | 125 ml | Br | BrH
solvent | water | 90 ml | O | H2O
product | 5-hydroxy-1H-benzimidazole | 7.7 g, 88% | OC1=CC2=C(NC=N2)C=C1 | C7H6N2O
